US07632829B2
2,2-Dimethyl-3-piperidin-1-yl-propan-1-ol
A solution of 3.00 g (17.96 mmol) of 3-bromo-2,2-dimethyl-propan-1-ol, 17.78 ml (179.59 mmol) of piperidine, 2.48 g (17.96 mmol) of K2CO3 and 2.69 g (17.96 mmol) of potassium iodide in 20 ml of DMA were stirred at 70° C. for 20 h. After filtration and evaporation of the solvents, the crude product was dissolved in diluted aqueous HCl solution and washed with EtOAc (3×). The aqueous phase was basified with KHCO3 and some drops of 1N NaOH and extracted with EtOAc (3×). The organic phase was dried (Na2SO4) and evaporated to give 0.57 g (18%) of the title compound as yellow liquid. MS: 172.0 (MH+).

reactant | 3-bromo-2,2-dimethyl-propan-1-ol | 17.96 mmol, 3.00 g | BrCC(CO)(C)C | C5H11BrO
reactant | piperidine | 179.59 mmol, 17.78 ml | N1CCCCC1 | C5H11N
reactant | K2CO3 | 17.96 mmol, 2.48 g | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 17.96 mmol, 2.69 g | [I-].[K+]
solvent | DMA | 20 ml | CC(=O)N(C)C | C4H9NO
product | 2,2-Dimethyl-3-piperidin-1-yl-propan-1-ol | 0.57 g, 18% | CC(CO)(CN1CCCCC1)C | C10H21NO
